US06638929B2
A mixture of 0.7 g (1.9 mmol) of 7-chloro-4-(5-methoxy-2-methylanilino)-6-nitro-3-quinolinecarbonitrile and 0.62 g (9.5 mmol) of sodium azide is heated at 60° C. under nitrogen for 24 hours. The mixture is cooled and poured onto ice. The solid is collected by filtration, washed with water and dried to yield 0.65 g of 7-azido-4-(5-methoxy-2-methylanilino)-6-nitro-3-quinolinecarbonitrile as a yellow solid.

reactant | 7-chloro-4-(5-methoxy-2-methylanilino)-6-nitro-3-quinolinecarbonitrile | 1.9 mmol, 0.7 g | ClC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=C(C=CC(=C1)OC)C)[N+](=O)[O-] | C18H13ClN4O3
reactant | sodium azide | 9.5 mmol, 0.62 g | [N-]=[N+]=[N-].[Na+]
product | 7-azido-4-(5-methoxy-2-methylanilino)-6-nitro-3-quinolinecarbonitrile | 0.65 g | N(=[N+]=[N-])C1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=C(C=CC(=C1)OC)C)[N+](=O)[O-] | C18H13N7O3
